US05334333
Proposed Synthesis of 4-(Dicyanomethyl)-benzaldehyde
To a 0.10 formula weight of sodium hydride suspended in 1 L acetonitrile in an atmosphere of dry argon is added 0.11 mole malononitrile dissolved in 0.10 L acetonitrile while adequate external cooling is applied to maintain the temperature of the reaction mixture in the range 0° C. to 10° C. To this mixture 0.05 formula weight of 4-iodobenzaldehyde is added followed by a solution of 0,005 formula weight of tetrakis(triphenylphosphene)palladium[0] in 0.50L argon-saturated acetonitrile. The resulting mixture is refluxed under argon with rapid stirring for 66 hours. The resulting mixture is concentrated in vacuo to a volume of 100 ml and the resulting mixture is treated with 500 ml ethyl ether. The salt which precipitated is removed by filtration and, while not with ether, suspended in 0.5 L water. The resulting suspension is acidified to pH=1.0 with concentrated hydrochloric acid to precipitate the 4-(dicyanomethyl)benzaldehyde.

reactant | sodium hydride | [H-].[Na+]
reactant | malononitrile | 0.11 mole | C(CC#N)#N | C3H2N2
reactant | 4-iodobenzaldehyde | IC1=CC=C(C=O)C=C1 | C7H5IO
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
solvent | acetonitrile | 0.10 L | C(C)#N | C2H3N
product | 4-(Dicyanomethyl)-benzaldehyde | C(#N)C(C1=CC=C(C=O)C=C1)C#N | C10H6N2O
